US06093710
A mixture of 6-ethoxycarbonyl-2-formyl-4,5,6,7-tetrahydrobenzo[b]thiophene (3.23 g), hydroxylamine hydrochloride (0.92 g), and ethanol (EtOH) (30 ml) was stirred at reflux for 30 minutes. The reaction mixture was added into a mixture of AcOEt and water. The separated organic layer was washed with water, and brine, and dried over MgSO4. After evaporation of the filtrate, the resulting precipitate was washed with a mixture of n-hexane and isopropyl ether to give 6-ethoxycarbonyl-2-hydroxyimino-4,5,6,7-tetrahydrobenzo[b]thiophene (1.81 g).

reactant | 6-ethoxycarbonyl-2-formyl-4,5,6,7-tetrahydrobenzo[b]thiophene | 3.23 g | C(C)OC(=O)C1CCC2=C(SC(=C2)C=O)C1 | C12H14O3S
reactant | hydroxylamine hydrochloride | 0.92 g | Cl.NO
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 6-ethoxycarbonyl-2-hydroxyimino-4,5,6,7-tetrahydrobenzo[b]thiophene | 1.81 g | C(C)OC(=O)C1CCC2=C(SC(C2)=NO)C1 | C11H15NO3S
